US04337197
(F) (3S-trans)-3-[[[[(4-Ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]phenylacetyl]amino]-1-hydroxy-4-methyl-2-azetidinone
(3S-trans)-3-[[[[(4-ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]phenylacetyl]amino]-4-methyl-1-(phenylmethoxy)-2-azetidinone (0.270 g) is dissolved in ethanol (25 ml) and hydrogenated over 10% palladium on charcoal catalyst (130 mg) for two hours. The reaction mixture is filtered and concentrated to a solid (0.220 g).

reactant | (3S-trans)-3-[[[[(4-ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]phenylacetyl]amino]-4-methyl-1-(phenylmethoxy)-2-azetidinone | 0.270 g | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)N[C@@H]1C(N([C@H]1C)OCC1=CC=CC=C1)=O)C1=CC=CC=C1)=O)=O | C26H29N5O6
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 130 mg | [Pd] | Pd
product | (3S-trans)-3-[[[[(4-Ethyl-2,3-dioxo-1-piperazinyl)carbonyl]amino]phenylacetyl]amino]-1-hydroxy-4-methyl-2-azetidinone | C(C)N1C(C(N(CC1)C(=O)NC(C(=O)N[C@@H]1C(N([C@H]1C)O)=O)C1=CC=CC=C1)=O)=O | C19H23N5O6
